US07473777B2
Synthesis of 4,5-bis(2,5-dichlorophenoxy)-3,6-difluorophthalonitrile
Into a separable flask of glass provided with a stirrer, a thermometer, a water separation tube, and a cooling tube and having an inner volume of 300 ml, 242.5 gr of acetone and 19.1 gr (0.0955 mol) of tetrafluorophthalonitrile were placed, to dissolve tetrafluorophthalonitrile in acetone homogeneously. Next, the resultant solution and 134 gr (0.2306 mol) of potassium fluoride were added together and the resultant reaction slurry was retained at −5° C. To this reaction slurry, 34.1 gr (0.2092 mol) of 2,5-dichlorophenol dissolved uniformly in 30.5 gr of acetone was added dropwise over a period of one hour. The reaction proceeding during the dropwise addition was continued with the reaction product cooled from the exterior so as to keep the interior temperature thereof in the range of −5° C. to 0° C. After the dropwise addition was completed, the reaction mixture was retained for additional two hours. After the reaction was completed, the contents of the flask were cooled to 20° C. and filtered to separate the solid component.

reactant | tetrafluorophthalonitrile | 0.0955 mol, 19.1 gr | FC=1C(=C(C(=C(C1C#N)C#N)F)F)F | C8F4N2
reactant | potassium fluoride | 0.2306 mol, 134 gr | [F-].[K+]
reactant | 2,5-dichlorophenol | 0.2092 mol, 34.1 gr | ClC1=C(C=C(C=C1)Cl)O | C6H4Cl2O
solvent | acetone | CC(=O)C | C3H6O
solvent | acetone | 30.5 gr | CC(=O)C | C3H6O
solvent | acetone | 300 ml, 242.5 gr | CC(=O)C | C3H6O
product | 4,5-bis(2,5-dichlorophenoxy)-3,6-difluorophthalonitrile | ClC1=C(OC=2C(=C(C(C#N)=C(C2OC2=C(C=CC(=C2)Cl)Cl)F)C#N)F)C=C(C=C1)Cl | C20H6Cl4F2N2O2
